US04839365
To 7.85 g (0.07 mol) of 2-thiophenecarboxaldehyde were added 148 ml of MeOH and 12.82 g (0.210 mol) of CH3NO2 ; and 74 ml of 50% aqueous solution of NaOH was added dropwise to the mixture with stirring at -5° C. After being stirred at 10° C. for 1 hr., the reaction solution was poured into a mixture of 296 ml of 36% HCl and 493 ml of water at 0° C. The crystals separating out were collected by filtration and washed with water, whereby 6.65 g (Yield : 61.2%) of the objective compound, 2-(2-nitroethenyl)thiophene (d-1) was obtained as greenish brown crystals.

reactant | 2-thiophenecarboxaldehyde | 0.07 mol, 7.85 g | S1C(=CC=C1)C=O | C5H4OS
reactant | CH3NO2 | 0.210 mol, 12.82 g | C[N+](=O)[O-] | CH3NO2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 296 ml | Cl | ClH
solvent | water | 493 ml | O | H2O
solvent | MeOH | 148 ml | CO | CH4O
product | 2-(2-nitroethenyl)thiophene | [N+](=O)([O-])C=CC=1SC=CC1 | C6H5NO2S
